* D:\Projects\ZekEng-Intern\LTSpice Files\Ventilator\NAND Tests.asc
V1 N001 0 SINE(6 6 50)
XU3 N001 N001 OUT VDD 0 CD4093B VDD=5 SPEED=1.0 TRIPDT=5e-9
.include lib/sub/CD4000.lib
.tran 0.5
.backanno
.end
