* D:\Projects\ZekEng-Intern\LTSpice Files\Ventilator\PMU.asc
D5 N003 0 BZX84B12VLY
C2 0 N002 100µ V=16 Irms=280m Rser=0.11 Lser=3.5n mfg="Würth Elektronik" pn="860040373002 WCAP-ATUL 6,3x11" type="Al electrolytic"
C3 N004 N003 0.22µ V=400 Irms=0 Rser=0.0381 Lser=11.951n mfg="Würth Elektronik" pn="890283425002CS WCAP-FTBE 15 x 18 x 11 x 5" type="Box"
D4 N002 N003 1N4148
V1 0 N009 SINE(0 311.127 50)
RL 0 N001 1k2
L2 N001 N009 5H
V2 N010 0 PULSE(12 0 145m 10u 10u 10m 300)
S1 N009 N008 N010 0 MySW
R1 N005 N004 130R
R2 N006 N005 130R
R3 N007 N006 130R
R4 N008 N007 130R
.model D D
.lib C:\Users\Yasen\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 300ms 0 1ms
.include lib/sub/thyristr.lib
.include lib/sub/CD4000.lib
.sympath lib/sym
* Load
.model MYSW SW(Ron=1 Roff=1Meg Vt=.5 Vh=-.4)
.backanno
.end
