* D:\Projects\ZekEng-Intern\LTSpice Files\Ventilator\SW.asc
S1 0 N001 N003 0 MYSW
V1 N003 0 PULSE(0 5 0.5m 1u 1u 0.5m 1m 10)
R1 N002 N001 1K
V2 N002 0 3.3
.model MYSW SW(Ron=1 Roff=1Meg Vt=.5 Vh=-.4)
.tran 0 2ms 0 1u
.backanno
.end
